US07981903B2
To a flask containing 5-chloro-8-fluoro,2-methyl-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one HCl salt (423 mg, 0.86 mmol) in 2,2,2-trifluoroethanol (10 mL) was added 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (254 mg, 1.02 mmol). The resulting slurry was stirred at 80° C. for 6 h. Solvents were removed under reduced pressure to afford a yellow solid. One third of this material (˜200 mg) was suspended in THE (5 mL) and excess aqueous ammonium hydroxide (27%) (˜12 mL) was added. The reaction was let stir at rt for 5 h, at which time the reaction mixture was diluted with ethyl acetate and washed with water and saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a yellow solid that was purified via chromatography on SiO2 to afford 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-6-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (117 mg, 0.17 mmol) as a yellow solid. ESIMS (M+H)+=688.

reactant | 5-chloro-8-fluoro,2-methyl-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one HCl salt | 0.86 mmol, 423 mg | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=C(N2S(=O)(=O)C2=CC=C(C=C2)C)C
reactant | 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 1.02 mmol, 254 mg | CN(C)CC(=O)N1CCC2=CC(=C(C=C12)N)OC | C13H19N3O2
reactant | ammonium hydroxide | ˜12 mL | [OH-].[NH4+]
solvent | 2,2,2-trifluoroethanol | 10 mL | FC(CO)(F)F | C2H3F3O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-6-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 0.17 mmol, 117 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C(=C2)C)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F)OC)C | C34H35FN8O5S
